US05266585
2-[p-(3-Chlorophenoxy)phenyl]-2-(l-imidazolylmethyl)-4-ethyl-1,3-dioxolane
1.2 parts of imidazole sodium salt, 4 parts of 2-[p-(3chlorophenoxy)phenyl]-2-bromomethyl-4-ethyl-1,3-dioxolane and a catalytic amount of potassium iodide are stirred in 50 ml of dimethyl formamide for 17 hours at a temperature of 125° C. The brown reaction mixture is cooled to room temperature, diluted with 150 ml of water and extracted with three 50 ml portions of ethyl acetate. The combined extracts are washed with two 50 ml portions of water, and dried over sodium sulfate. The solvent is removed by evaporation and the crude product is chromatographed over a 35 cm column of silica gel with acetone/ethyl acetate (1:1). The eluant is removed by evaporation and the oily residue is crystallised from petroleum ether in the form of slightly yellowish crystals with a melting point of 69°-71° C.

reactant | imidazole sodium salt | [Na].N1C=NC=C1
reactant | 2-[p-(3chlorophenoxy)phenyl]-2-bromomethyl-4-ethyl-1,3-dioxolane | ClC=1C=C(OC2=CC=C(C=C2)C2(OCC(O2)CC)CBr)C=CC1 | C18H18BrClO3
reactant | potassium iodide | [I-].[K+]
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-[p-(3-Chlorophenoxy)phenyl]-2-(l-imidazolylmethyl)-4-ethyl-1,3-dioxolane | ClC=1C=C(OC2=CC=C(C=C2)C2(OCC(O2)CC)CC=2NC=CN2)C=CC1 | C21H21ClN2O3
